US05502054
A solution of 14.0 grams (0.053 mole) of triphenylphosphine in about 54 mL of methylene chloride was stirred, and 3.6 grams (0.053 mole) of imidazole was added. Upon completion of addition, the reaction mixture was stirred about 45 minutes until the imidazole dissolved. The reaction mixture was then cooled in an ice bath, and 13.6 grams (0.053 mole) iodine was added portionwise. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature, where it stirred for about 15 minutes until the iodine dissolved. After this time the reaction mixture was cooled to 0° C., and a solution of 17.4 grams (0.036 mole) of 3-(4-chlorophenyl)-3-methyl-1-tributylstannylbutanol in about 36 mL of methylene chloride was added dropwise while maintaining the reaction mixture temperature below 5° C. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it stirred for about 18 hours. The reaction mixture was then taken up in about 100 mL of acetonitrile and extracted with three 150 mL portions of hexane. The combined extracts were concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel, using petroleum ether as the eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 8.7 grams of 3-(4-chlorophenyl)-3-methyl-1-iodo-1-tributylstannylbutane. The NMR spectrum was consistent with the proposed structure.

reactant | triphenylphosphine | 0.053 mole, 14.0 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 0.053 mole, 3.6 grams | N1C=NC=C1 | C3H4N2
reactant | iodine | 0.053 mole, 13.6 grams | II | I2
reactant | 3-(4-chlorophenyl)-3-methyl-1-tributylstannylbutanol | 0.036 mole, 17.4 grams | ClC1=CC=C(C=C1)C(CC(O)[Sn](CCCC)(CCCC)CCCC)(C)C
solvent | methylene chloride | about 54 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 36 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | about 100 mL | C(C)#N | C2H3N
product | 3-(4-chlorophenyl)-3-methyl-1-iodo-1-tributylstannylbutane | 8.7 grams | ClC1=CC=C(C=C1)C(CC([Sn](CCCC)(CCCC)CCCC)I)(C)C | InChI=1S/C11H13ClI.3C4H9.Sn/c1-11(2,7-8-13)9-3-5-10(12)6-4-9;3*1-3-4-2;/h3-6,8H,7H2,1-2H3;3*1,3-4H2,2H3;
